US08017601B2
A solution of 4-(5-methoxynaphthalen-1-yl)benzenamine (140 mg, 0.56 mmol) and 2-phenylethanoyl isothiocyanate (320 mg, 1.98 mmol), prepared by condensing 2-phenylacetyl chloride and isothiocyanatopotassium in MeCN at 80° C., in MeOH (5 mL) was stirred at room temperature overnight. The reaction mixture quenched with NaHCO3 (aq. 10 mL) and extracted with dichloromethane 3×5 mL. The combined organic phase was dried over Na2SO4, and concentrated, and purified on silica with 3% MeOH in dichloromethane to afford 1-(4-(8-methoxyisoquinolin-5-yl)phenyl)-3-(2-phenylacetyl)thiourea as a yellow solid (25 mg, 11%). MS (ESI pos. ion) m/z: 428 (M+H). 1 (a) Hendrickson, J. B.; Radriguez, C. J. Org. Chem. 1983, 48, 3344-3346. (b) S-Y Sit, et al. Bioorg. Med. Chem., 2004, 12, 715-736.

reactant | 4-(5-methoxynaphthalen-1-yl)benzenamine | 0.56 mmol, 140 mg | COC1=C2C=CC=C(C2=CC=C1)C1=CC=C(C=C1)N | C17H15NO
reactant | 2-phenylethanoyl isothiocyanate | 1.98 mmol, 320 mg | C1(=CC=CC=C1)CC(=O)N=C=S | C9H7NOS
reactant | 2-phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | isothiocyanatopotassium | N(=C=S)[K]
solvent | MeCN | CC#N | C2H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(4-(8-methoxyisoquinolin-5-yl)phenyl)-3-(2-phenylacetyl)thiourea | 25 mg, 11% | COC=1C=CC(=C2C=CN=CC12)C1=CC=C(C=C1)NC(=S)NC(CC1=CC=CC=C1)=O | C25H21N3O2S
